US06794403B2
2-(2-Chloro-4-hydroxyphenyl)-1,3-benzoxazol-5-ol
The title compound was prepared in substantially the same manner as described in Example 1, from 2,5-dimethoxyaniline, and 2-chloro-4-methoxybenzoic acid and was obtained as a white solid, m.p. 253-255° C.; MS m/e 262 (M+H)+.

reactant | 2,5-dimethoxyaniline | COC1=C(N)C=C(C=C1)OC | C8H11NO2
reactant | 2-chloro-4-methoxybenzoic acid | ClC1=C(C(=O)O)C=CC(=C1)OC | C8H7ClO3
product | 2-(2-Chloro-4-hydroxyphenyl)-1,3-benzoxazol-5-ol | ClC1=C(C=CC(=C1)O)C=1OC2=C(N1)C=C(C=C2)O | C13H8ClNO3
